US04003927
A stirred mixture of 6-hydroxy-7,8-dichloro-1-tetralone (1 g., 0.0044 mole), potassium carbonate (10.69 g., 0.005 mole) and ethyl bromoacetate (0.84 g., 0.005 mole) in DMF (20 ml.) is heated at 60° C. for 11/2 hours. A solution of potassium hydroxide (0.45 g., 0.008 mole) in methanol (40 ml.) is added, the mixture is refluxed for one-half hour and then poured into water (ca. 500 ml.). Upon acidification a white powder separates. It is collected, washed with water, dried and crystallized from ethanol to obtain (1-oxo-7,8-dichloro-1,2,3,4-tetrahydro-6-naphthyloxy)-acetic acid (1.1 g.), melting point 250°-252° C.

reactant | 6-hydroxy-7,8-dichloro-1-tetralone | 0.0044 mole, 1 g | OC=1C=C2CCCC(C2=C(C1Cl)Cl)=O | C10H8Cl2O2
reactant | potassium carbonate | 0.005 mole, 10.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.005 mole, 0.84 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium hydroxide | 0.008 mole, 0.45 g | [OH-].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | methanol | 40 ml | CO | CH4O
solvent | water | ca. 500 ml | O | H2O
product | (1-oxo-7,8-dichloro-1,2,3,4-tetrahydro-6-naphthyloxy)-acetic acid | 1.1 g | O=C1CCCC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O | C12H10Cl2O4
